US04205170
To 132 mg of 2-(10,11-dihydro dibenzo[b,f]oxepin-2-yl)-propionic acid in 2 ml of benzene were added 0.6 ml of thionyl chloride and three drops of pyridine and the mixture was stirred at room temperature for 1 hour, then refluxed with stirring for 1 hour. The solvent was distilled off to obtain the residue, which was dissolved in 2 ml of chloroform and the resulting solution was added to 2 ml of 28% ammonia water. The mixture was stirred at room temperature for 3 hours. The reaction mixture was acidified with hydrochloric acid and extracted with ethyl acetate. The extract was washed with 1N-sodium hydroxide solution, then saturated sodium chloride solution and dried over anhydrous sodium sulfate. The solvent was distilled off to obtain yellowish brown oil, which was chromatographed over silica gel, eluted with chloroform/methanol (200/1). The eluate was crystallized from benzene-n-hexane to give 115 mg of 2-(10,11-dihydro dibenzo[b,f]oxepin-2-yl)-propionamide as pale yellow crystals having a melting point of 122.5°-123° C.

reactant | 2-(10,11-dihydro dibenzo[b,f]oxepin-2-yl)-propionic acid | 132 mg | C1=C(C=CC=2OC3=C(CCC21)C=CC=C3)C(C(=O)O)C | C17H16O3
reactant | thionyl chloride | 0.6 ml | S(=O)(Cl)Cl | Cl2OS
reactant | ammonia water | 2 ml | O.N
reactant | hydrochloric acid | Cl | ClH
solvent | benzene | 2 ml | C1=CC=CC=C1 | C6H6
catalyst | pyridine | three drops | N1=CC=CC=C1 | C5H5N
solvent | chloroform | 2 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-(10,11-dihydro dibenzo[b,f]oxepin-2-yl)-propionamide | 115 mg | C1=C(C=CC=2OC3=C(CCC21)C=CC=C3)C(C(=O)N)C | C17H17NO2
